US06348429B1
Preparation of 4-(N,N-dimethylamino)phenethyl methacrylate
This monomer was synthesized in a manner analogous to the published method used for the synthesis of 4-(dimethylamino)benzyl methacrylate. Thus, 4.55 g (0.0435 mol) methacryloyl chloride in 4.55 g benzene was added dropwise to a solution of 5.0 g (0.03 mol) 4-dimethylaminophenethyl alcohol, 3.64 g (0.036 mol) triethylamine, and 8.7 g benzene in the presence of p-benzoquinone and CuCl(I) with stirring and cooling, keeping the temperature below 15° C. The reaction mixture was left to stir for one hour in a room temperature water bath (about 25° C.). The solution was filtered to remove triethylamine hydrochloride. The benzene filtrate was washed with water and then with saturated sodium carbonate solution, dried over sodium sulfate anhydrous, filtered, and the benzene removed with the rotary evaporator (water bath 20-25° C.). The monomer was distilled in vacuo in the presence of CuCl(I) and 2,2-diphenyl-1-picrylhydrazyl (DPPH), bp=115-122° C./95-100, μHg. The monomer was recrystallized from petroleum ether, mp=42-43° C. The analysis for nitrogen showed 5.86% N (calc. 6.00). NMR δ(ppm): 1.9 (s, 3, CH2═C(CH3)—); 2.8 (m, 2, —CH2—CH2—C6H4—); 2.9 (s, 6, CH3)2); 4.2-4.3 (m, 2, —(O)C—O—CCH2—CH2—); 5.5, 6.1 (d, s, 2, CH2═C); 6.7, 7.1 (d, d, 4, aromitic H).

reactant | 4-(dimethylamino)benzyl methacrylate | C(C(=C)C)(=O)OCC1=CC=C(C=C1)N(C)C | C13H17NO2
reactant | methacryloyl chloride | 0.0435 mol, 4.55 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | 4-dimethylaminophenethyl alcohol | 0.03 mol, 5.0 g | CN(C1=CC=C(CCO)C=C1)C | C10H15NO
reactant | triethylamine | 0.036 mol, 3.64 g | C(C)N(CC)CC | C6H15N
reactant | p-benzoquinone | C1(C=CC(C=C1)=O)=O | C6H4O2
solvent | benzene | 4.55 g | C1=CC=CC=C1 | C6H6
solvent | benzene | 8.7 g | C1=CC=CC=C1 | C6H6
product | 4-(N,N-dimethylamino)phenethyl methacrylate | C(C(=C)C)(=O)OCCC1=CC=C(C=C1)N(C)C | C14H19NO2
